US07176306B2
Synthesis of 2-[4-[2-(5,6-difluorobenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide
The reaction and treatments of Example 12 were repeated, except that 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide was replaced by 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide, and 2-mercaptobenzimidazole was replaced by 5,6-difluoro-2-mercaptobenzimidazole, to thereby yield the title compound as a colorless foamed substance.

reactant | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1SC)C)SC | C16H26N4O2S2
reactant | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1OCC(F)(F)F)C)OCC(F)(F)F | C18H24F6N4O4
reactant | 2-mercaptobenzimidazole | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 5,6-difluoro-2-mercaptobenzimidazole | FC1=CC2=C(N=C(N2)S)C=C1F | C7H4F2N2S
product | 2-[4-[2-(5,6-difluorobenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide | FC1=CC2=C(N=C(N2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2OCC(F)(F)F)C)OCC(F)(F)F)C=C1F | C25H26F8N6O3S
